US07544679B2
A solution of 50.0 mg (0.13 mmol) 2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid and 37.4 mg (0.26 mmol) 3,5-difluorobenzylamine in 1.5 ml dimethylformamid were cooled to 0° C. and 20 μl (0.14 mmol) triethylamine and 54.5 mg (0.14 mmol) O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) were added. Stirring was continued overnight at room temperature. Removal of the solvent by distillation and chromatography on silicagel with heptane/ethylacetate (gradient 19:1 to 1:1) yielded 10.0 mg (15%) (R/S)-N-(3,5-difluoro-benzyl)-2-hydroxy-2-isobutyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide, MS (m/e): 508.5 (M+H)+.

reactant | 2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 0.13 mmol, 50.0 mg | OC(C(=O)O)(CC(C)C)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C21H22N2O5
reactant | 3,5-difluorobenzylamine | 0.26 mmol, 37.4 mg | FC=1C=C(CN)C=C(C1)F | C7H7F2N
reactant | triethylamine | 0.14 mmol, 20 μl | C(C)N(CC)CC | C6H15N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.14 mmol, 54.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamid | 1.5 ml | CN(C=O)C | C3H7NO
product | (R/S)-N-(3,5-difluoro-benzyl)-2-hydroxy-2-isobutyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | 10.0 mg, 15% | FC=1C=C(CN(C(C(C(=O)N)(CC(C)C)O)=O)[C@H]2C3=C(C4=C(NC2=O)C=CC=C4)C=CC=C3)C=C(C1)F | C28H27F2N3O4
